US04518597
(a) 2-Cyano-3-methoxy-aniline
One hundred ten grams (0.617 mol) of 2-methoxy-6-nitro-benzonitrile are dissolved in 1 liter of methanol and hydrogenated in the presence of 10% palladium on charcoal at ambient temperature and under a hydrogen pressure of 5 bar over a period of one hour. The catalyst is removed by filtration, the solvent is distilled off, and the residue is recrystallized from ethanol/diisopropyl ether.

reactant | 2-methoxy-6-nitro-benzonitrile | 0.617 mol, One hundred ten grams | COC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C8H6N2O3
solvent | methanol | 1 liter | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | 2-Cyano-3-methoxy-aniline | C(#N)C1=C(N)C=CC=C1OC | C8H8N2O
